US06359138B1
6-Benzyloxy-1-tetralone (1.26 g, 5 mmol), 4-(4-methyl-benzyl)-piperidin-4-ol hydrochloride (1.20 g, 5 mmol) and paraformaldehyde (150 mg, 5 mmol) in DMF (10 ml) were heated at 70° C. for 17 hr. The crude mixture was partitioned between distilled H2O (150 ml), 25% NH4OH (2 ml) and EtOAc (100 ml). The aqueous phase was further extracted with EtOAc (100 ml) and the combined organic extracts washed twice with satd NaCl solution (100 ml), dried Na2SO4 filtered and evaporated to afford an orange oil. Chromatography over SiO2 (Merck 230-400 mesh) eluting with EtOAc-Et3N (19:1) afforded (RS)-6-benzyloxy-2-[4-hydroxy-4-(4-methyl-benzyl)-piperidin-1-ylmethyl]-3,4-dihydro-2H-naphthalen-1-one as an amber oil (1.34 g, 2.85 ml, 57%), MS m/e=470.3 (M+H+).

reactant | 6-Benzyloxy-1-tetralone | 5 mmol, 1.26 g | C(C1=CC=CC=C1)OC=1C=C2CCCC(C2=CC1)=O | C17H16O2
reactant | 4-(4-methyl-benzyl)-piperidin-4-ol hydrochloride | 5 mmol, 1.20 g | Cl.CC1=CC=C(CC2(CCNCC2)O)C=C1
reactant | paraformaldehyde | 5 mmol, 150 mg | C=O | CH2O
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | (RS)-6-benzyloxy-2-[4-hydroxy-4-(4-methyl-benzyl)-piperidin-1-ylmethyl]-3,4-dihydro-2H-naphthalen-1-one | 2.85 ml, 1.34 g, 57% | C(C1=CC=CC=C1)OC=1C=C2CCC(C(C2=CC1)=O)CN1CCC(CC1)(CC1=CC=C(C=C1)C)O | C31H35NO3
